US04640707
Sodium hydride (0.08 g) was suspended in dry N,N-dimethylformamide (3 ml), and the suspension was cooled to 0° C. While stirring, 6-amino-2H-1,4-benzoxazin-3(4H)-one (0.5 g) was portionwise added to the suspension at 0° C., and the resultant mixture was stirred at the same tempeature for 30 minutes. To the mixture, propargyl chloride (0.25 g) was dropwise added, and the mixture was stirred at room temperature for 6 hours. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The extract was washed with water, dried and concentrated to give 6-amino-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one (0.36 g). m.p., 260.1° C.

reactant | Sodium hydride | 0.08 g | [H-].[Na+]
reactant | 6-amino-2H-1,4-benzoxazin-3(4H)-one | 0.5 g | NC=1C=CC2=C(NC(CO2)=O)C1 | C8H8N2O2
reactant | propargyl chloride | 0.25 g | C(C#C)Cl | C3H3Cl
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 6-amino-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one | 0.36 g | NC=1C=CC2=C(N(C(CO2)=O)CC#C)C1 | C11H10N2O2
